US20010009962A1
(3a) 5-Chlorosulphonyl-2-methoxybenzoic acid (Compound VIA, X=OCH3)
Commercially available 2-methoxybenzoic acid (15.2 g, 0.1 mol) was added portionwise to chlorosulphonic acid (52.43 g) over 30min with ice cooling. Thionyl chloride (11.9 g, 0.1 mol) was added and the reaction stirred overnight. The reaction was quenched onto ice/water (250 g/65 ml) and the precipitated product granulated for 1 hr, filtered, water washed and oven dried to give the title compound (23.56 g, 93.9%) as a white solid with m.p. 138-140° C. δ (CDCl3): 4.18 (3H, s), 7.23 (1H, d), 8.21 (1H, d), 8.78 (1H, s).

reactant | 2-methoxybenzoic acid | 0.1 mol, 15.2 g | COC1=C(C(=O)O)C=CC=C1 | C8H8O3
reactant | chlorosulphonic acid | 52.43 g | ClS(=O)(=O)O | ClHO3S
reactant | Thionyl chloride | 0.1 mol, 11.9 g | S(=O)(Cl)Cl | Cl2OS
product | 5-Chlorosulphonyl-2-methoxybenzoic acid | 23.56 g, 93.9% | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO5S
